US04333937
2-[4-(Benzthiazol-2-yl)-1-piperazinyl]-6,7-dimethoxy-4-quinazolinamine (Ia: R3 =benzthiazol-2-yl; R4, R5, R6 and R9 =H; R7 and R8 =OMe; and n=1)
A suspension of 2-(1-piperazinyl)-4-amino-6,7-dimethoxyquinazoline (1.96 g), 2-chlorobenzthiazole (1.02 g), triethylamine (1.82 g) in butanol (100 ml) was refluxed for 72 hr and filtered. The precipitate was taken up in a solution of methanol and dimethyl sulfoxide, and 1 N sodium hydroxide was added until the mixture was alkaline. The precipitate was collected, washed with water, dried (1.3 g) and crystallized from methanol to give the title compound: mp 242°-245° C.; ir (nujol) 3460 and 3370 cm-1 : uv max (MeOH) 227 (ε=4130), 250 (ε=5280), 276 (ε=3649) and 340 nm (ε=690); nmr (DMSO-d6) δ 3.65 (m, 4H), 3.9 (m, 4H), 3.85 (s, 3H), 3.93 (s, 3H), 5.2 (s, 2H) and 7.2 (m, 6H); and Anal. Calcd for C21H22N6O2S.CH3OH: C, 58.14% H, 5.72% N, 18.50% and Found: C, 57.88% H, 5.90% N, 18.47%.

reactant | 2-(1-piperazinyl)-4-amino-6,7-dimethoxyquinazoline | 1.96 g | N1(CCNCC1)C1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C14H19N5O2
reactant | 2-chlorobenzthiazole | 1.02 g | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
reactant | triethylamine | 1.82 g | C(C)N(CC)CC | C6H15N
solvent | butanol | 100 ml | C(CCC)O | C4H10O
product | 2-[4-(Benzthiazol-2-yl)-1-piperazinyl]-6,7-dimethoxy-4-quinazolinamine | S1C(=NC2=C1C=CC=C2)N2CCN(CC2)C2=NC1=CC(=C(C=C1C(=N2)N)OC)OC | C21H22N6O2S
